US05767131
(4,4-Diphenylpiperidin-1-yl)acetonitrile.
A suspension of 4,4-diphenylpiperidine (4.00 g, 16.9 mmol, 1.00 equiv), chloroacetonitrile (1.40 mL, 21.9 mmol, 1.30 equiv, Aldrich), potassium carbonate (4.67 g, 33.8 mmol, 2.00 equiv), and potassium iodide (561 mg, 3.38 mmol, 0.20 equiv) in n-butanol (20 mL) and 1,4-dioxane (20 mL) was stirred at reflux under argon for 48 hours. The mixture was cooled to room temperature and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc) to afford 4.01 g (86%) of white solid, which was characterized spectroscopically.

reactant | 4,4-diphenylpiperidine | 16.9 mmol, 4.00 g, 1.00 equiv | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
reactant | chloroacetonitrile | 21.9 mmol, 1.40 mL, 1.30 equiv | ClCC#N | C2H2ClN
reactant | potassium carbonate | 33.8 mmol, 4.67 g, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.38 mmol, 561 mg, 0.20 equiv | [I-].[K+]
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (4,4-Diphenylpiperidin-1-yl)acetonitrile | 4.01 g, 86% | C1(=CC=CC=C1)C1(CCN(CC1)CC#N)C1=CC=CC=C1 | C19H20N2
